US04659706
Following the general procedure of Example 4, 3-acetyl-8-methoxy-7-methylthio-2,3,4,5-tetrahydro-1H3-benzazepine is reacted with one equivalent of 3-chloroperbenzoic acid to give 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine. Following the procedure of Example 4, 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine is reacted with 3N hydrochloric acid to give 8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride. This methoxy compound is treated with pyridine hydrochloride to give 8-hydroxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 3-acetyl-8-methoxy-7-methylthio-2,3,4,5-tetrahydro-1H3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=C(C(=C2)SC)OC | C14H19NO2S
reactant | 3-chloroperbenzoic acid | one equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 3-acetyl-8-methoxy-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=C(C(=C2)S(=O)C)OC | C14H19NO3S
